US07759337B2
Synthesis of N-cyclopropyl-4-methyl-5-(1-morpholinophthalazin-6-yl)thiophene-2-carboxamide
4-Methyl-5-(1-morpholinophthalazin-6-yl)thiophene-2-carboxylic acid (140 mg, 309 μmol) was suspended in thionyl chloride (3.1 mL) and heated to 65° C. for 1 h. The reaction mixture was concentrated in vacuo and azeotropically dried with toluene, before being dissolved/suspended in tetrahydrofuran 99.9% (3.1 mL), diisopropylethylamine (216 μl, 1238 μmol) and cyclopropylamine (71 μl, 1238 μmol). The reaction was stirred at RT for 2 h, diluted with 50 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 2 times with 50 mL of sodium bicarbonate (saturated, aqueous), dried over sodium sulfate, and concentrated via rotovap to give a crude yellow product. The crude was purified by chromatography, to obtain the title compound. Found MS (ES+): 395(M+H)+.

reactant | 4-Methyl-5-(1-morpholinophthalazin-6-yl)thiophene-2-carboxylic acid | 309 μmol, 140 mg | CC=1C=C(SC1C=1C=C2C=NN=C(C2=CC1)N1CCOCC1)C(=O)O | C18H17N3O3S
reactant | diisopropylethylamine | 1238 μmol, 216 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 1238 μmol, 71 μl | C1(CC1)N | C3H7N
solvent | thionyl chloride | 3.1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-cyclopropyl-4-methyl-5-(1-morpholinophthalazin-6-yl)thiophene-2-carboxamide | C1(CC1)NC(=O)C=1SC(=C(C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C21H22N4O2S
